US06949648B2
3-Methyl-4-(propylsulfinyl)-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
A solution of m-chloroperbenzoic acid (0.96 g, 5.6 mmol) in chloroform (55 mL) was added dropwise to a solution of 3-methyl-4-propylsulfanyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (1.54 g, 4.6 mmol) in chloroform (55 mL) at a temperature of lower than 0° C., and the mixture was stirred at the same temperature for another 2.5 hours. The reaction solution was washed with an aqueous saturated sodium bicarbonate solution and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (hexane:chloroform:ethyl acetate=2:1:1 to 1:1:1) to give the title compound (0.84 g, 52% yield).

reactant | m-chloroperbenzoic acid | 5.6 mmol, 0.96 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-methyl-4-propylsulfanyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 4.6 mmol, 1.54 g | CC1=NN(C2=NC3=CC=CC=C3C(=C21)SCCC)C2=NC=CC=C2 | C19H18N4S
solvent | chloroform | 55 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 55 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Methyl-4-(propylsulfinyl)-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 0.84 g, 52% yield | CC1=NN(C2=NC3=CC=CC=C3C(=C21)S(=O)CCC)C2=NC=CC=C2 | C19H18N4OS
